US04490388
Example 7 Synthesis of 4-(β-amidinoethenyl)phenyl trans-4-aminomethylcyclohexanecarboxylate:
To a mixture of 9 ml of a 30% hydrogen bromideacetic acid mixture and 18 ml of glacial acetic acid, was added 2.7 g of 4-(β-amidinoethenyl)phenyl trans-4-benzyloxycarbonylaminomethylcyclohexanecarboxylate methanesulfonate. After stirring the mixture for one hour at room temperature, anhydrous ethyl ether was added to wash out a white solid substance. The solid substance was recrystallized from ethanol to obtain 1.1 g of a white powder of 4-(β-amidinoethenyl)phenyl trans-4-aminomethylcyclohexane carboxylate dihydrobromide.

reactant | hydrogen | [H][H] | H2
reactant | acetic acid | 18 ml | C(C)(=O)O | C2H4O2
reactant | 4-(β-amidinoethenyl)phenyl trans-4-benzyloxycarbonylaminomethylcyclohexanecarboxylate methanesulfonate | 2.7 g | CS(=O)(=O)O.C(C1=CC=CC=C1)OC(=O)NC[C@@H]1CC[C@H](CC1)C(=O)OC1=CC=C(C=C1)C=CC(N)=N
solvent | ethyl ether | C(C)OCC | C4H10O
product | 4-(β-amidinoethenyl)phenyl trans-4-aminomethylcyclohexanecarboxylate | 1.1 g | NC[C@@H]1CC[C@H](CC1)C(=O)OC1=CC=C(C=C1)C=CC(N)=N | C17H23N3O2
